US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}methanone
Following general procedure F, {6-Bromo-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone (58 mg, 0.132 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (57 mg, 0.198 mmol) to afford the desired product (49 mg, 71%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.46 (s, 1H), 8.22 (dd, J=8.7, 2.0 Hz, 1H), 8.02 (d, J=8.7 Hz, 1H), 7.89 (s, 1H), 7.67-7.59 (m, 1H), 7.56 (d, J=7.7 Hz, 1H), 7.8 (s, 1H), 7.39 (d, J=7.7 Hz, 1H), 7.20 (s, 2H), 3.40-3.34 (m, 2H), 3.19-3.12 (m, 2H), 2.98-2.85 (s, 8H), 1.27-1.16 (m, 4H); ESI MS m/z 520 [C29H27Cl2N3O2+H]+; HPLC 95.9% (AUC), tR=11.40 min.

reactant | {6-Bromo-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.132 mmol, 58 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN(C)C | C23H24BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.198 mmol, 57 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}methanone | 49 mg, 71% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)CCN(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C29H27Cl2N3O2
